US04456471
Preparation of--Preparation of 2-methyl-6-(1-ethoxy-1-methylethyl)-N-chloroacetylaniline
In this example 1.45 g (1.03 ml) of chloroacetyl chloride was added dropwise to a solution containing 1.44 g (2 ml) of triethylamine and 0.0129 mole of 2-methyl-6-(1-ethoxy-1-methylethyl)aniline in methylene chloride at about but below 20° C. The mixture was then refluxed and then allowed to stand overnight at room temperature. Another 0.51 ml of chloroacetyl chloride and 1 ml of triethylamine was then added dropwise. The mixture was then again refluxed and allowed to stand overnight at room temperature. The mixture was then washed with saturated aqueous sodium bicarbonate, dried and evaporated affording the title compound as a brown oil.

reactant | chloroacetyl chloride | 1.03 ml, 1.45 g | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 2 ml, 1.44 g | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-6-(1-ethoxy-1-methylethyl)aniline | 0.0129 mole | CC1=C(N)C(=CC=C1)C(C)(C)OCC | C12H19NO
reactant | chloroacetyl chloride | 0.51 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-methyl-6-(1-ethoxy-1-methylethyl)-N-chloroacetylaniline | CC1=C(NC(CCl)=O)C(=CC=C1)C(C)(C)OCC | C14H20ClNO2
